US07470679B2
(S)-2-((7-bromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinic acid
(S)-Methyl 2-(4-bromo-8-oxo-6,7,8,10-tetrahydro-3H-oxepino[3,4-e]indazol-7-yl)acetate (135 mg, 0.368 mmol) was dissolved in a mixture of tetrahydrofuran (4.0 mL) and methanol (4.0 mL). Water (4.0 mL) was added to the mixture followed by lithium hydroxide hydrate (31.5 mg, 0.751 mmol). Reaction stirred at room temperature for 5 hours. Another 30 mg of lithium hydroxide hydrate was added to the mixture. Reaction stirred at room temperature for 18 hours. Reaction was quenched with 1.6 mL 1N hydrochloric acid. Organic solvents were removed from the mixture by roto-vap. Material was extracted from the remaining aqueous twice with ethyl acetate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Title compound was obtained as white solid in 73% yield. MS (M−H)−=355.2, 357.1.

reactant | (S)-Methyl 2-(4-bromo-8-oxo-6,7,8,10-tetrahydro-3H-oxepino[3,4-e]indazol-7-yl)acetate | 0.368 mmol, 135 mg | BrC1=CC2=C(C=3C=NNC13)COC([C@@H](C2)CC(=O)OC)=O | C14H13BrN2O4
reactant | Water | 4.0 mL | O | H2O
reactant | lithium hydroxide hydrate | 0.751 mmol, 31.5 mg | O.[OH-].[Li+]
reactant | lithium hydroxide hydrate | 30 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran | 4.0 mL | O1CCCC1 | C4H8O
solvent | methanol | 4.0 mL | CO | CH4O
product | (S)-2-((7-bromo-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinic acid | 73% yield | BrC=1C=C(C(=C2C=NNC12)CO)C[C@H](C(=O)O)CC(=O)O | C13H13BrN2O5
